US04072498
Following the procedure of Example 1, but substituting 3-(2-furyl)-4-methylpyrazole for 4-methyl-3-phenylpyrazole and 2-bromo-N,N-dimethylvaleramide for 2-chloro-N,N-dimethylpropionamide there was obtained 3-(2-furyl)-N,N,4-trimethyl-α-propylpyrazole-1-acetamide having a melting point of 107°-109° C.

reactant | 4-methyl-3-phenylpyrazole | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
reactant | 2-bromo-N,N-dimethylvaleramide | BrC(C(=O)N(C)C)CCC | C7H14BrNO
reactant | 2-chloro-N,N-dimethylpropionamide | ClC(C(=O)N(C)C)C | C5H10ClNO
product | 3-(2-furyl)-N,N,4-trimethyl-α-propylpyrazole-1-acetamide | O1C(=CC=C1)C1=NN(C=C1C)C(C(=O)N(C)C)CCC | C15H21N3O2
